US03932427
N-methyl-N' -[2-(2-pyridylmethylamino)ethyl]urea
A mixture of N-formyl-N-(2-pyridylmethyl)ethylenediamine (prepared by adding sodium hydride to N-formylethylenediamine in dry dimethyl formamide, then reacting with 2-bromomethylpyridine at room temperature) and methyl isocyanate in dry chloroform is heated in a pressure vessel at 100° for 18 hours to give after cooling and removing the solvent N-methyl-N'-[2-((N"-formyl-N"-2-pyridylmethyl)amino)ethyl]urea. Acid hydrolysis by the procedure of Example 4 gives the title compound.

reactant | N-formyl-N-(2-pyridylmethyl)ethylenediamine | C(=O)N(CCN)CC1=NC=CC=C1 | C9H13N3O
reactant | sodium hydride | [H-].[Na+]
reactant | N-formylethylenediamine | C(=O)NCCN | C3H8N2O
reactant | 2-bromomethylpyridine | BrCC1=NC=CC=C1 | C6H6BrN
reactant | methyl isocyanate | CN=C=O | C2H3NO
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-methyl-N' -[2-(2-pyridylmethylamino)ethyl]urea | CNC(=O)NCCNCC1=NC=CC=C1 | C10H16N4O
